US09315491B2
6-Hydroxy-5-methoxy-2-(4-nitro-phenyl)-3H-pyrimidin-4-one
The NaOCH3 (7.8 g, 3 eq) was added to a stirred solution of 1-ethyl 3-methyl 2-methoxymalonate (11 g, 1.3 eq), 4-nitrobenzimidamide hydrochloride (9.6 g, 1 eq) and EtOH (240 ml) and the mixture was refluxed for 8 hrs. After 8 hrs, the solvent was evaporated and water (10˜15 ml) was added to the mixture then the mixture was cooled to 0° C. and carefully acidified with conc. HCl. After overnight cooling, it led to the formation of brown precipitates. The mixture was filtered and the precipitates was dried in vacuo to give a brown solid (65%) as a product.

reactant | NaOCH3 | 7.8 g, 3 eq | O([Na])C
reactant | 1-ethyl 3-methyl 2-methoxymalonate | 11 g, 1.3 eq | COC(C(=O)OCC)C(=O)OC | C7H12O5
reactant | 4-nitrobenzimidamide hydrochloride | 9.6 g, 1 eq | Cl.[N+](=O)([O-])C1=CC=C(C(N)=N)C=C1
solvent | EtOH | 240 ml | CCO | C2H6O
product | 6-Hydroxy-5-methoxy-2-(4-nitro-phenyl)-3H-pyrimidin-4-one | 65% | OC1=C(C(NC(=N1)C1=CC=C(C=C1)[N+](=O)[O-])=O)OC | C11H9N3O5
